US08232284B2
Cesium carbonate (880 mg, 2.7 mmol) and 1,1′-binaphthalene-2,2′-diylbis(diphenylphosphine) (168 mg, 0.27 mmol) and tris(dibenzylideneacetone)dipalladium(0) (123 mg, 0.14 mmol) were successively added to a toluene solution (10 ml) of 4-chloro-6-quinazolinyl acetate (300 mg, 1.35 mmol) and 5-methoxy[1,3]thiazolo[5,4-b]pyridine-2-amine (244 mg, 1.35 mmol), and stirred under a nitrogen atmosphere at 120° C. for 2 hours. The reaction solution was cooled to room temperature, filtered, and washed with chloroform and methanol. The obtained filtrate was concentrated under reduced pressure to obtain 4-[(5-methoxy[1,3]thiazolo[5,4-b]pyridin-2-yl)amino]-6-quinazolinyl acetate (196 mg, yield: 40%) as a yellow solid.

reactant | Cesium carbonate | 2.7 mmol, 880 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4-chloro-6-quinazolinyl acetate | 1.35 mmol, 300 mg | C(C)(=O)OC=1C=C2C(=NC=NC2=CC1)Cl | C10H7ClN2O2
reactant | 5-methoxy[1,3]thiazolo[5,4-b]pyridine-2-amine | 1.35 mmol, 244 mg | COC1=CC=C2C(=N1)SC(=N2)N | C7H7N3OS
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.14 mmol, 123 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 4-[(5-methoxy[1,3]thiazolo[5,4-b]pyridin-2-yl)amino]-6-quinazolinyl acetate | 196 mg, yield: 40% | C(C)(=O)OC=1C=C2C(=NC=NC2=CC1)NC=1SC2=NC(=CC=C2N1)OC | C17H13N5O3S
